US07547699B2
Step 2: (4R,9aR)-6-(1-(RS)-Hydroxy-ethyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
To a solution of 10.00 g (4R,9aR)-6-Formyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 100 ml tetrahydrofuran was added drop wise at 0° C. 20 ml of a ca 3M solution of methyl magnesium bromide solution in ether. The mixture was stirred at 0° C. for 30 min. The reaction mixture was quenched with 10% aqueous ammonium chloride and extracted with ethyl acetate. The organic phase was washed with 105 aqueous citric acid, 10% aqueous sodium bicarbonate and brine, dried over sodium sulfate, evaporated and dried to constant weight under high vacuum to yield 10.0 g of the title compound as colorless oil (MS: 334.5 (M+H+)).

reactant | (4R,9aR)-6-Formyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 10.00 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)C=O | C17H23N3O3
reactant | methyl magnesium bromide | C[Mg]Br
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (4R,9aR)-6-(1-(RS)-Hydroxy-ethyl)-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 10.0 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)C(C)O | C18H27N3O3
